US08389735B2
(i) Synthesis of 3-bromobenzoylhydrazine
First, 10 g (44 mmol) of ethyl-3-bromobenzoate was put in a 200-mL three-neck flask, 50 mL of ethanol was added therein, and the mixture was stirred. Thereafter, 12 mL of hydrazine monohydrate was added therein, and the mixture was stirred at 78° C. for 5 hours so as to be reacted. After the reaction, water was added to the reaction solution, and a solid was precipitated. The precipitated solid was collected by suction filtration. The obtained solid was put in approximately 500 mL of water, washed, and again collected by suction filtration; thus, 8.1 g of a white solid that was an object was obtained (yield: 86%).

reactant | ethyl-3-bromobenzoate | 44 mmol, 10 g | C(C)OC(C1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | hydrazine monohydrate | 12 mL | O.NN
solvent | water | O | H2O
product | 3-bromobenzoylhydrazine | yield: 86% | BrC=1C=C(C(=O)NN)C=CC1 | C7H7BrN2O
